US06277999B1
1-(2,6-Difluorobenzyl)-1H-1,2,3-triazol-4-carboxamide
A mixture of 2,6-difluorobenzylazide (9,22 g), 2-chloroacryonitrile (6,68 g) and water is stirred at about 82° C. for about 24 hours. 2-Chloroacrylnitrile is distilled off by raising the external temperature to about 113° C. excess. The mixture is cooled to about 40° C. and toluene (10 ml) is added. Within about 40 minutes at about 80° C. sodium hydroxide (5,5 ml—30%) is added the amide being crystallized. By raising the external temperature to 112° C., toluene is distilled off. The suspension is cooled to 20° C. and the product is isolated by filtration, washed with water (200 ml) and dried at about 60° C. in vacuo.

reactant | 2,6-difluorobenzylazide | 9,22 g | FC1=C(CN=[N+]=[N-])C(=CC=C1)F | C7H5F2N3
reactant | water | O | H2O
product | 1-(2,6-Difluorobenzyl)-1H-1,2,3-triazol-4-carboxamide | FC1=C(CN2N=NC(=C2)C(=O)N)C(=CC=C1)F | C10H8F2N4O
